US08729105B2
Preparation of 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid (3-cyclopropyl-isoxazol-5-ylmethyl)-amide
The title compound was synthesized in analogy to Example 41, using 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid (example AF) and 3-cyclopropyl-5-isoxazolemethanamine (CAN 851434-73-6) as starting materials, LC-MS (UV peak area/ESI) 99.6%, 452.2 (M+H)+.

reactant | 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C(=O)O)OCC(F)(F)F | C14H9ClF3NO3
reactant | 3-cyclopropyl-5-isoxazolemethanamine | C1(CC1)C1=NOC(=C1)CN | C7H10N2O
product | 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid (3-cyclopropyl-isoxazol-5-ylmethyl)-amide | C1(CC1)C1=NOC(=C1)CNC(=O)C1=NC(=C(C=C1)OCC(F)(F)F)C1=CC=C(C=C1)Cl | C21H17ClF3N3O3
